US07384963B2
N-Ethyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(2-trifluoromethylbenzyl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(2-trifluoromethylbenzyl)-1,1′-biphenyl-4-carboxamide and iodoethane using method L. NMR; δH [2H6]—DMSO 7.90,(1H. d), 7.78-7.50,(9H, m), 7.38,(1H. b), 4.86-4.68,(2H, m), 3.48-3.32,(2H, b), 2.56,(3H, s), 2.33-2.23,(3H, m), 1.06,(3H, b). LCMS; retention time 3.71 min, MH+ 480.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(2-trifluoromethylbenzyl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C25H20F3N3O2
reactant | iodoethane | ICC | C2H5I
product | N-Ethyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(2-trifluoromethylbenzyl)-1,1′-biphenyl-4-carboxamide | C(C)N(C(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C)CC1=C(C=CC=C1)C(F)(F)F | C27H24F3N3O2
